US09382188B2
step 1) 2′-fluoro-5′-methoxy-2-(1-methoxy-2,2-dimethylbutyl)-4-((4-methoxybenzyl)oxy)-1,1′-biphenyl
Under a nitrogen atmosphere, to a solution of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-ol (53.8 mg) in DMF (1227 μL) were added 60% sodium hydroxide (9.8 mg) and iodomethane (15.3 μL) at 0° C., and the mixture was stirred for 5 hr. To the reaction mixture was added ice water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (42.1 mg) as a transparent gummy substance.

reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-ol | 53.8 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(CC)(C)C)O | C27H31FO4
reactant | sodium hydroxide | 9.8 mg | [OH-].[Na+]
reactant | iodomethane | 15.3 μL | IC | CH3I
solvent | DMF | 1227 μL | CN(C)C=O | C3H7NO
product | 2′-fluoro-5′-methoxy-2-(1-methoxy-2,2-dimethylbutyl)-4-((4-methoxybenzyl)oxy)-1,1′-biphenyl | 42.1 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(CC)(C)C)OC | C28H33FO4
